US07507729B2
c) 9-Chloro-2-cyclopropyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one
A suspension of 4-chloro-2-(5-cyclopropyl-2H-[1,2,4]triazol-3-yl)-phenylamine (3.95 g, 16.8 mmol) in dioxane (120 mL) and pyridine (1.5 mL) was cooled to 10° C. A solution of chloroacetyl chloride (1.54 mL, 19.3 mmol) in diethylether (5 mL) was then added dropwise over 15 min. The reaction mixture was stirred at this temperature for 30 min and was then treated within 10 min with aqueous sodium hydroxide (2 N, 20.2 mL, 40.4 mmol). The mixture was stirred for 22 h at ambient temperature. After the addition of aqueous HCl (1 N, 2.5 mL) the resulting mixture was evaporated. The residue was stirred for 45 min in water (100 mL) and ethyl acetate (5 mL). The resulting crystals were filtered off and washed with water. Drying in vacuo and trituration with ethyl acetate afforded the title compound (3.02 g, 65%) which was obtained as an off-white solid. MS: m/e=275.0 [M+H]+.

reactant | 4-chloro-2-(5-cyclopropyl-2H-[1,2,4]triazol-3-yl)-phenylamine | 16.8 mmol, 3.95 g | ClC1=CC(=C(C=C1)N)C=1NN=C(N1)C1CC1 | C11H11ClN4
reactant | chloroacetyl chloride | 19.3 mmol, 1.54 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 40.4 mmol, 2 N, 20.2 mL | [OH-].[Na+]
reactant | HCl | 1 N, 2.5 mL | Cl | ClH
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | diethylether | 5 mL | C(C)OCC | C4H10O
product | 9-Chloro-2-cyclopropyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | 3.02 g, 65% | ClC=1C=CC2=C(C3=NC(=NN3CC(N2)=O)C2CC2)C1 | C13H11ClN4O
